US09403807B2
Step F: N-(1-(2-(4-chlorophenyl)-1-methoxybutan-2-yl)-1H-indol-4-yl)methanesulfonamide
To a mixture of 1-(2-(4-chlorophenyl)-1-methoxybutan-2-yl)-1H-indol-4-amine (30 mg) and 4-methylmorpholine (46 mg) in DCM (3 mL) was added methanesulfonyl chloride (16 mg) dropwise. Then the mixture was stirred at room temperature overnight. The solution was quenched with saturated ammonium chloride solution, and extracted with ethyl acetate (20 mL). The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by chromatography on silica gel (20-30% ethyl acetate in hexane) to afford the title compound as a white solid. LC/MS m/z=407.1 [M+H]+.

reactant | 1-(2-(4-chlorophenyl)-1-methoxybutan-2-yl)-1H-indol-4-amine | 30 mg | ClC1=CC=C(C=C1)C(COC)(CC)N1C=CC=2C(=CC=CC12)N | C19H21ClN2O
reactant | 4-methylmorpholine | 46 mg | CN1CCOCC1 | C5H11NO
reactant | methanesulfonyl chloride | 16 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(2-(4-chlorophenyl)-1-methoxybutan-2-yl)-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(COC)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H23ClN2O3S
